US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2,3,4,6-tetrafluoroaniline to yield 2-[(2,3,4,6-tetrafluorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2,3,4,6-tetrafluoroaniline | FC1=C(N)C(=CC(=C1F)F)F | C6H3F4N
product | 2-[(2,3,4,6-tetrafluorophenyl)amino]phenylacetic acid | FC1=C(C(=CC(=C1F)F)F)NC1=C(C=CC=C1)CC(=O)O | C14H9F4NO2
